US06620438B2
2.75 g of 2-aminopropan-1,3-diol and 5.9 g of 1-benzyl-4-piperidone are dissolved in 60 ml of methylene chloride and while cooling with ice a total of 9.9 g of sodium triacetoxyborohydride are added batchwise. The mixture is left to stand overnight at ambient temperature. 60 ml of methylene chloride and some water are added, then conc. hydrochloric acid is added while cooling with ice until an acid reaction is obtained. The mixture is stirred for about another 15 min. with cooling and then made clearly alkaline with 4 N sodium hydroxide solution. The aqueous phase is separated off, the organic phase is washed with a very little water, dried over sodium sulphate and freed from solvent in vacuo. 8 g of substance are obtained which are chromatographed with methylene chloride/methanol 8:2 over 150 g of silica gel. The uniform fractions according to TLC are combined and freed from solvent in vacuo. 7.3 g of 1-benzyl-4-(1,3-dihydroxyprop-2-ylamino)-piperidine are obtained.

reactant | 2-aminopropan-1,3-diol | 2.75 g | NC(CO)CO | C3H9NO2
reactant | 1-benzyl-4-piperidone | 5.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium triacetoxyborohydride | 9.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-benzyl-4-(1,3-dihydroxyprop-2-ylamino)-piperidine | 7.3 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(CO)CO | C15H24N2O2
